US07192943B2
To a suspension of phenyl [1-methyl-5-(tritylamino)pyrazol-4-yl]carbamate (423 mg) and tert-butyl 2-{[3-(tritylamino)propyl]amino}ethylcarbamate (410 mg) in dehydrated chloroform (2.5 ml) was added N-ethyldiisopropylamine (0.152 ml), and the mixture was stirred under reflux for 16 hours. To the reaction mixture was added ethyl acetate, and the solution was washed successively with water, 5% aqueous citric acid solution, 1M aqueous sodium hydroxide solution and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 5% methanol/methylene chloride to give tert-butyl (2-{N-({[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}carbonyl)-N-[3-(tritylamino)propyl]amino}-ethyl)carbamate (657 mg) as a solid.

reactant | phenyl [1-methyl-5-(tritylamino)pyrazol-4-yl]carbamate | 423 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C30H26N4O2
reactant | tert-butyl 2-{[3-(tritylamino)propyl]amino}ethylcarbamate | 410 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCNCCNC(OC(C)(C)C)=O | C29H37N3O2
reactant | N-ethyldiisopropylamine | 0.152 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (2-{N-({[1-methyl-5-(tritylamino)pyrazol-4-yl]amino}carbonyl)-N-[3-(tritylamino)propyl]amino}-ethyl)carbamate | 657 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)N(CCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C53H57N7O3
